US08084489B2
To a mixture of (±)-5-[1-(4′-tert-butyl-2,6-dimethyl-biphenyl-4-yloxy)-ethyl]-thiophene-2-carboxylic acid ethyl ester (0.603 g, 1.38 mmol) in THF (14 mL) is added lithium hydroxide (1N aqueous, 14 mL). The mixture is warmed to 70° C. and stirred overnight. The reaction mixture is acidified with 1N HCl (15 mL), extracted into ethyl acetate (3×25 mL), dried over MgSO4, and concentrated, to provide (±)-5-[1-(4′-tert-butyl-2,6-dimethyl-biphenyl-4-yloxy)-ethyl]-thiophene-2-carboxylic acid (0.554 g, 98%) as a white foam. MS (ES): 407.3 [M−H]−.

reactant | (±)-5-[1-(4′-tert-butyl-2,6-dimethyl-biphenyl-4-yloxy)-ethyl]-thiophene-2-carboxylic acid ethyl ester | 1.38 mmol, 0.603 g | C(C)OC(=O)C=1SC(=CC1)C(C)OC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(C)(C)C)C | C27H32O3S
reactant | lithium hydroxide | 1N, 14 mL | [OH-].[Li+]
reactant | HCl | 1N, 15 mL | Cl | ClH
solvent | THF | 14 mL | C1CCOC1 | C4H8O
product | (±)-5-[1-(4′-tert-butyl-2,6-dimethyl-biphenyl-4-yloxy)-ethyl]-thiophene-2-carboxylic acid | 0.554 g, 98% | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C=C(C=C1C)OC(C)C1=CC=C(S1)C(=O)O)C | C25H28O3S
